US08729105B2
Preparation of (S)-5-(4-chlorophenyl)-N-((3-methoxyisoxazol-5-yl)methyl)-6-(1,1,1-trifluoropropan-2-yloxy)nicotinamide
The title compound was synthesized in analogy to Example 1, using (S)-5-(4-chlorophenyl)-6-(1,1,1-trifluoropropan-2-yloxy)nicotinic acid (Example AO) and 3-methoxy-5-isoxazolemethanamine hydrochloride as starting materials. MS: 456.1 (M+H)+.

reactant | (S)-5-(4-chlorophenyl)-6-(1,1,1-trifluoropropan-2-yloxy)nicotinic acid | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)O[C@H](C(F)(F)F)C | C15H11ClF3NO3
reactant | 3-methoxy-5-isoxazolemethanamine hydrochloride | Cl.COC1=NOC(=C1)CN
product | (S)-5-(4-chlorophenyl)-N-((3-methoxyisoxazol-5-yl)methyl)-6-(1,1,1-trifluoropropan-2-yloxy)nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC2=CC(=NO2)OC)C1)O[C@H](C(F)(F)F)C | C20H17ClF3N3O4
